US05814631
Synthesis of 7-chloro-3-(4-chlorobenzenesulfonyl)-1-(3-pyridylmethyl)-2,4(1H,3H)-quinazolinedione (Compound 114)
580 mg (2.68 mmol) of 4-chlorobenzenesulfonylisocyanate and 600 mg (2.28 mmol) of 4-chloro-2-(3-pyridylmethyl)aminobenzoic acid were treated in the same way as in Example 1 to obtain 175 mg of the above-identified compound (yield 16.6%). Properties: colorless crystal, Melting point: >190° C. (decomposition), PMR (δppm, DMSO-d6):5.29 (2H,s), 7.3-7.4 (2H,m), 7.39 (1H,s), 7.68 (1H,d), 7.79 (2H,d), 7.97 (1H,d), 8.20 (2H,d), 8.46 (1H,d), 8.57 (1H,d).

reactant | 4-chlorobenzenesulfonylisocyanate | 2.68 mmol, 580 mg | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 4-chloro-2-(3-pyridylmethyl)aminobenzoic acid | 2.28 mmol, 600 mg | ClC1=CC(=C(C(=O)O)C=C1)NCC=1C=NC=CC1 | C13H11ClN2O2
product | 7-chloro-3-(4-chlorobenzenesulfonyl)-1-(3-pyridylmethyl)-2,4(1H,3H)-quinazolinedione | 175 mg, yield 16.6% | ClC1=CC=C2C(N(C(N(C2=C1)CC=1C=NC=CC1)=O)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C20H13Cl2N3O4S
